US06168838A
9-Fluoro-7-(2,3-difluoro4-octyloxyphenyl)-2-octyloxyphenanthrene
From 7-bromo-9-fluoro-2-octyloxyphenanthrene by reaction with 2,3-difluoro4-octyloxyphenylboronic acid, sodium carbonate and tetrakis(triphenylphosphine)-palladium (0) in toluene/ethanol/H2O.

reactant | 7-bromo-9-fluoro-2-octyloxyphenanthrene | BrC1=CC=C2C=3C=CC(=CC3C=C(C2=C1)F)OCCCCCCCC | C22H24BrFO
reactant | 2,3-difluoro4-octyloxyphenylboronic acid | FC1=C(C=CC(=C1F)OCCCCCCCC)B(O)O | C14H21BF2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol H2O | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 9-Fluoro-7-(2,3-difluoro4-octyloxyphenyl)-2-octyloxyphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCCCC)C1=C(C(=C(C=C1)OCCCCCCCC)F)F | C36H43F3O2
